US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 1-(5-bromo-2-fluorophenyl)-1H-imidazole as described in Example 6 to give 2-{8-fluoro-3-[4-fluoro-(3-imidazol-1-yl)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol as a pale yellow solid (83 mg, 24%): m/z (ES+) 355 [MH+].

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 1-(5-bromo-2-fluorophenyl)-1H-imidazole | BrC=1C=CC(=C(C1)N1C=NC=C1)F | C9H6BrFN2
product | 2-{8-fluoro-3-[4-fluoro-(3-imidazol-1-yl)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol | 83 mg, 24% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=CC(=C(C=C2)F)N2C=NC=C2 | C19H16F2N4O
